US08076336B2
1-[3-tert-Butyl-5-(2-hydroxyethoxymethyl)phenyl]-2-chloroethanone
1-{3-tert-Butyl-5-[2-(tetrahydropyran-2-yloxy)ethoxymethyl]phenyl} ethanone (O2.063; 2.0 g) was dissolved in methanol/THF (30 ml/30 ml) and admixed while stirring with phenyl-trimethylammonium tribromide (2.25 g). After stirring at RT for 3 h, the mixture was diluted with DCM and washed once with 5% sodium thiosulfate solution, and the DCM phase was dried over magnesium sulfate and concentrated by rotary evaporation. The residue was dissolved in THF (200 ml), and 3 N HCl (30 ml) was added. After standing for 1 h, EA and water were added, and the EA phase was removed. The EA phase was dried over magnesium sulfate and concentrated by rotary evaporation. The residue was purified using silica gel (40 g cartridge, n-heptane/EA gradient of 0-50% within 40 min). 774 mg of the title compound were obtained.

reactant | 1-{3-tert-Butyl-5-[2-(tetrahydropyran-2-yloxy)ethoxymethyl]phenyl} ethanone | 2.0 g | C(C)(C)(C)C=1C=C(C=C(C1)COCCOC1OCCCC1)C(C)=O | C20H30O4
reactant | phenyl-trimethylammonium tribromide | 2.25 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | methanol THF | 30 ml | CO.C1CCOC1
product | 1-[3-tert-Butyl-5-(2-hydroxyethoxymethyl)phenyl]-2-chloroethanone | 774 mg | C(C)(C)(C)C=1C=C(C=C(C1)COCCO)C(CCl)=O | C15H21ClO3
